US07411072B2
1-cyclopropyl-5-(3-fluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1,3-dihydro-benzoimidazol-2-one
Following procedures essentially as described in Example 219, mix 1-cyclopropyl-2-oxo-2,3-dihydro-1H-benzoimidazole-5-boronic acid (120 mg, 0.55 mmol) (prepared essentially as described in Preparation 36), 11-bromomethylene-3-fluoro-6,11-dihydro-dibenzo[b,e]oxepine (E and Z mixture, 177 mg, 0.58 mmol), 2N Na2CO3 (0.7 mL), dioxane (8 mL) and (Ph3P)4Pd (38 mg, 0.033 mmol). Purify the crude product by column chromatography using THF/hexane to give 65 mg title compound as a gray powder.

reactant | 1-cyclopropyl-2-oxo-2,3-dihydro-1H-benzoimidazole-5-boronic acid | 0.55 mmol, 120 mg | C1(CC1)N1C(NC2=C1C=CC(=C2)B(O)O)=O | C10H11BN2O3
reactant | 11-bromomethylene-3-fluoro-6,11-dihydro-dibenzo[b,e]oxepine | 0.58 mmol, 177 mg | BrC=C1C2=C(OCC3=C1C=CC=C3)C=C(C=C2)F | C15H10BrFO
reactant | Na2CO3 | 2N, 0.7 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | (Ph3P)4Pd | 0.033 mmol, 38 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 1-cyclopropyl-5-(3-fluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1,3-dihydro-benzoimidazol-2-one | 65 mg | C1(CC1)N1C(NC2=C1C=CC(=C2)C=C2C1=C(OCC3=C2C=CC=C3)C=C(C=C1)F)=O | C25H19FN2O2
